Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol
 
Attending: ___.
 
Chief Complaint:
Pneumonia identified by outpatient CXR

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH of Asthma, COPD, tobacco use,  p/w 4 days of "cold like" 
symptoms. Pt noted that she has a chronic cough at baseline, 
worse at night, but noted that her cough was now productive of 
___ sputum and was a/w wheezing and subjective fevers (but did 
not take her temperature). Pt also noted that baseline DOE 
increased to mild shortness of breath at rest during the same 
time period. Pt took tylenol and robitussin to good effect. Pt 
denied any CP, but noted that she felt her heart "flutter" 
during this time period. No changed in her 2 pillow orthopnea.

Pt did not have any recent sick contacts and denied any 
association w/ headache, sore throat, sneezing, rhinorrhea, 
nausea, vomiting, diarrhea, abdominal pain.  

In ED VS were T97.8 P78 BP136/97 R18 O296%NC. WBC was normal but 
pt noted to have wheezing on exam, and CXR was suggestive of RML 
PNA so was given 125mg methylprednisone, 750mg levaquin, and 
combo nebs (albuterol/ipratropim). CHEM/Coags/UA negative. 

Given co-morbidities, decision was made to admit pt while 
initiating Abx therapy. 

 
Past Medical History:
ASTHMA/COPD/Tobacco use
Peripheral Arterial disease s/p recent common iliac stenting
ATRIAL TACHYCARDIA   
ATYPICAL CHEST PAIN   
CERVICAL RADICULITIS   
CERVICAL SPONDYLOSIS   
CORONARY ARTERY DISEASE   
HEADACHE   
HIP REPLACEMENT   
HYPERLIPIDEMIA   
HYPERTENSION   
OSTEOARTHRITIS   
HERPES ZOSTER   
TOBACCO ABUSE   
ATRIAL FIBRILLATION   
ANXIETY    
GASTROINTESTINAL BLEEDING   
OSTEOARTHRITIS   
ATHEROSCLEROTIC CARDIOVASCULAR DISEASE   
PERIPHERAL VASCULAR DISEASE   
URINARY TRACT INFECTION   
CATARACT SURGERY ___ 

Surgery:
BILATERAL COMMON ILIAC ARTERY STENTING ___ 
BUNIONECTOMY   
HIP REPLACEMENT   
PRIOR CESAREAN SECTION   
GANGLION CYST 
 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___ 

 
Physical ___:
ADMISSION PHYSICAL EXAM:
============================
Tm98.4, BP141/82, P71, R20, O297%RA
GENERAL: AOx3, pleasant affect, NAD
HEENT: MMM. no LAD. no JVD
HEART: RRR, S1/S2 normal, no murmurs/gallops/rubs.
LUNGS: Coarse breath sounds b/l with expiratory wheezing 
diffusely, RML/RLL crackles, no incr WOB (no accessory muscle 
use), no resp distress
ABDOMEN: soft, nontender, nondistended. normoactive BS  
EXT: Warm, dry, well perfused, 1+ peripheral edema to mid calves 
b/l 
SKIN: dry, warm, no rashes
NEURO/PSYCH: AOx3, fluent speech, MAE spontaneously

DISCHARGE PHYSICAL EXAM:
============================
Tm:98.7, BP148-154/76-89, P72-81, R20, O29___-99RA
GENERAL: AOx3, pleasant affect, NAD
HEENT: MMM. no LAD. no JVD
HEART: RRR, S1/S2 normal, no murmurs/gallops/rubs.
LUNGS: Coarse breath sounds b/l with scant expiratory wheeze, no 
incr WOB (no accessory muscle use), no resp distress
ABDOMEN: soft, nontender, nondistended. normoactive BS  
EXT: Warm, dry, well perfused, 1+ peripheral edema to mid calves 
b/l 
SKIN: dry, warm, no rashes
NEURO/PSYCH: AOx3, fluent speech, MAE spontaneously

 
Pertinent Results:
PERTINENT LABS:
==========================
___ 05:13PM BLOOD WBC-5.0 RBC-4.70 Hgb-13.8 Hct-42.7 MCV-91 
MCH-29.3 MCHC-32.3 RDW-14.3 Plt ___
___ 06:05AM BLOOD WBC-9.0# RBC-4.25 Hgb-12.6 Hct-38.6 
MCV-91 MCH-29.7 MCHC-32.7 RDW-14.4 Plt ___
___ 05:13PM BLOOD Neuts-53.9 ___ Monos-6.6 Eos-0.5 
Baso-0.8
___ 05:13PM BLOOD ___ PTT-31.7 ___
___ 12:39PM BLOOD UreaN-16 Creat-0.8 Na-138 K-3.5 Cl-98 
HCO3-29 AnGap-15
___ 06:05AM BLOOD Glucose-142* UreaN-15 Creat-0.7 Na-138 
K-3.5 Cl-100 HCO3-29 AnGap-13
___ 12:39PM BLOOD proBNP-233
___ 05:13PM BLOOD Calcium-9.9 Phos-2.5* Mg-1.8
___ 05:35PM BLOOD Lactate-1.5

PERTINENT MICRO:
==========================
Urinalysis:
___ 05:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 05:30PM URINE RBC-0 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-1

Blood Cx (___): NGTD (preliminary)

PERTINENT STUDIES:
==========================

EKG: Sinus rhythm with frequent atrial premature beats. Left 
bundle-branch block with extensive repolarization abnormalities. 
Compared to the previous tracing of ___ the rhythm is now 
sinus 

CXR (___): Right middle lobe opacity concerning for 
pneumonia.
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
===========================
___ PMH of Asthma, COPD, CAD, tobacco use, who presented w/ 4 
days of shortness of breath and productive cough ___ sputum), 
who was found to have RML opacity on CXR at outpatient clinic so 
was referred to the ED.

ACTIVE ISSUES:
===========================
#Community Acquired Pneumonia
Pt presented to outpatient cardiology appointment w/ 4 days of 
shortness of breath and productive cough ___ sputum), and was 
referred to primary care clinic (Dr. ___. Dr ___ 
___ a CXR which showed RML opacity on CXR. Given pt's 
underlying lung pathology (COPD ___ longstanding tobacco use), 
and multiple co-morbidities, she was admitted briefly to 
initiate antibiotics/steroids and ensure that she remained 
clinically stable.

While RML opacification was suggestive of CAP, COPD flare was 
also consideration given afebrile status and normal WBC. Exam 
significant for afebrile status, saturation of 97% on RA 
(baseline 95% RA), and coarse breath sounds w/ diffuse 
expiratory wheezing.

Pt was treated w/ Levaquin 750mg daily (planned 5d course), 
steroids (recieved 125 methylprednisone then 4d course of PO 
prednisone), and had nebulizer treatments for symptom relief. 

Given her clinical stability, she was discharged home with an 
outpatient f/u w/ PCP (Dr. ___ on ___. Until then, 
pt will need to complete course of Antibiotics and Steroids. Pt 
was instructed to continue her outpatient COPD treatment regimen 
on discharge.

CHRONIC ISSUES:
==========================
#Coronary Artery Disease
Pt has a known history of CAD, but did not have any chest pain 
during this hospitalization and EKG was unchanged from prior. 
Accordingly, she was continued on home dosages of plavix, 
aspirin, isosorbid mononitrate and diltiazem

#Hypertension
Pt has a known history of hypertension and was continued on her 
home dose hydrochlorothiazide.

#Glaucoma
Pt was continued on latanoprost drops before bed.

#Hyperlipidemia
Pt was continued on home dose simvastatin.

Transitional Issues:
=====================
1. Pt will need to continue Levaquin 750mg daily to complete 5 
day course (Day 1 - ___
2. Pt will need to continue Prednisone 40mg daily to complete 4 
day course (Day 1 - ___
3. Pt will need to f/u w/ PCP ___ ___ to assess response to 
tx and for general health care maintenance
4. Pt will need to use Nebulizer treatments at home for 
symptomatic relief for the next wk until pneumonia clears

Code Status: FULL (confirmed w/ pt)
Contact: ___ (husband ___, ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
3. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
4. Clopidogrel 75 mg PO DAILY 
5. Diltiazem Extended-Release 180 mg PO DAILY 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN nasal 
congestion 
7. Hydrochlorothiazide 50 mg PO DAILY 
8. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
10. Simvastatin 20 mg PO DAILY 
11. Theophylline ER 300 mg PO BID 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. Acetaminophen 325 mg PO Q4H:PRN pain 
14. Aspirin 81 mg PO DAILY 
15. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
315/200 mg oral daily 
16. cod liver oil 1,250-135 unit oral BID 
17. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q4H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
3. Aspirin 81 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Diltiazem Extended-Release 180 mg PO DAILY 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN nasal 
congestion 
7. Hydrochlorothiazide 50 mg PO DAILY 
8. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE HS 
10. Multivitamins W/minerals 1 TAB PO DAILY 
11. Simvastatin 20 mg PO DAILY 
12. Theophylline ER 300 mg PO BID 
13. Tiotropium Bromide 1 CAP IH DAILY 
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
15. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
315/200 mg oral daily 
16. cod liver oil 1,250-135 unit oral BID 
17. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION BID 
18. Cepastat (Phenol) Lozenge 2 LOZ PO Q2H:PRN sore throat 
RX *phenol [Cepastat] 14.5 mg 2 lozenges every ___ as needed 
for sore throat Disp #*36 Lozenge Refills:*0
19. Levofloxacin 750 mg PO Q24H Duration: 2 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0
20. PredniSONE 40 mg PO DAILY Duration: 2 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*4 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community Acquired Pneumonia
COPD
Asthma

 
Discharge Condition:
Discharge Condition: Stable
Mental Status: AOx3 (Baseline)
Ambulatory Status: Baseline

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you while you were hospitalized 
at ___. As you know, you were 
admitted for initial treatment of pneumonia, to ensure that you 
were responding well to the antibiotics, given your history of 
COPD/Asthma. Fortunately, you responded quite well to the 
Antiobiotics, Steroids, and Nebulizer treatments that were 
administered. Since your breathing was stable and you were 
responding appropriately to treatments, you were discharged to 
home. However, you should be vigilant in making sure that you 
continue the antibiotics & steroids for the short course listed 
on the medication page. You should also be sure to see Dr. ___ 
at your next appointment to ensure that your pneumonia has 
resolved.
 
Followup Instructions:
___